US07601729B2
5-[4-(1-Benzofuran-2-yl)phenyl]-2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxypentanoic acid
A solution of 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxy-5-(4-iodophenyl) pentanoic acid (25 mg, 50 μmol) in dimethylformamide (1.0 mL) was added in one portion to a mixture of -benzofuran-2-ylboronic acid (11 mg, 70 μmol) and fibrecat FC1001 (2.71% Pd; 20 mg, 5.0 μmol) in a Smith microwave reaction vial. Cesium carbonate (41.0 mg, 125 μmol) was added and the vial capped. The crude reaction mixture was heated at 150° C. for 15 min using a Smith Synthesiser microwave reactor. On cooling the vial was opened and the contents partitioned between methanol/dichloromethane (10:90; 10 mL) and aqueous hydrochloric acid solution (2.0 M; 10 mL). The organic phase was separated and filtered through a Whatman 5 μM filter tube, washing the filter cake with methanol (2×1 mL). The filtrate was evaporated and the resulting residue was purified using mass directed auto-preparative reverse phase HPLC to give the title compound (3.0 mg, 12%) as a pale yellow solid. LC/MS: 3.69 min; z/e 484, calcd (M+1) 484. 1H NMR (400 MHz: DMSO-d6): 7.80 (6H), 7.65 (2H), 7.30 (5H), 3.65 (1H), 3.60 (2H), 2.75 (1H), 2.55 (1H), 2.40 (1H major), 2.25 (1H minor), 1.85 (2H), 1.65 (2H).

reactant | 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxy-5-(4-iodophenyl) pentanoic acid | 50 μmol, 25 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)O)C(CCC1=CC=C(C=C1)I)O | C21H20INO5
reactant | benzofuran-2-ylboronic acid | 70 μmol, 11 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | Cesium carbonate | 125 μmol, 41.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
catalyst | Pd | [Pd] | Pd
product | 5-[4-(1-Benzofuran-2-yl)phenyl]-2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxypentanoic acid | 3.0 mg, 12% | O1C(=CC2=C1C=CC=C2)C2=CC=C(C=C2)CCC(C(C(=O)O)CCN2C(C1=CC=CC=C1C2=O)=O)O | C29H25NO6
